US07547691B2
4-(3-Aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester (0.818 g, 3.36 mmol) is added to a stirred suspension of 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid amide (0.436 g, 1.34 mmol) and diisopropylethylamine (0.70 mL, 4.0 mmol) in anhydrous 1,4-dioxane (8 mL) and dimethylacetamide (2 mL) at room temperature under nitrogen. The resultant mixture is heated in an oil bath at 95° C. for 7 hours. At room temperature the mixture is concentrated and chromatographed on silica gel, eluting with CH3OH in dichloromethane: 0-6%, to give 4-{3-[4-(4-carbamoyl-benzo[b]thiophen-2-yl)-5-chloro-pyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester (0.403 g) as a solid.

reactant | 4-(3-Aminopropyl)-piperidine-1-carboxylic acid tert-butyl ester | 3.36 mmol, 0.818 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCN | C13H26N2O2
reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid amide | 1.34 mmol, 0.436 g | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(=O)N)Cl | C13H7Cl2N3OS
reactant | diisopropylethylamine | 4.0 mmol, 0.70 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylacetamide | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 4-{3-[4-(4-carbamoyl-benzo[b]thiophen-2-yl)-5-chloro-pyrimidin-2-ylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.403 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(N)=O)Cl | C25H31ClN6O3S
